US07129244B2
Step 2: Synthesis of 6-chloro-N4-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-pyrimidine-2,4,5-triamine
A mixture of 4,6-dichloro-pyrimidine-2,5-diamine and 2-aminomethyl-4-methoxy-3,5-dimethyl-pyridine was heated to reflux in n-BuOH for 3 h, following the general procedure 1. HPLC RT was 3.597 min. 1HNMR (CDCl3) δ 8.22 (s, 1H), 7.12 (br. t, 1H), 4.61 (s, 2H), 4.56–4.55 (d, 2H), 3.80 (s, 3H), 3.00 (s, 2H), 2.29 (s, 3H), 2.27 (s, 3H).

reactant | 4,6-dichloro-pyrimidine-2,5-diamine | ClC1=NC(=NC(=C1N)Cl)N | C4H4Cl2N4
reactant | 2-aminomethyl-4-methoxy-3,5-dimethyl-pyridine | NCC1=NC=C(C(=C1C)OC)C | C9H14N2O
solvent | n-BuOH | CCCCO | C4H10O
product | 6-chloro-N4-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NCC1=NC=C(C(=C1C)OC)C)N | C13H17ClN6O
